* C:\sandbox\kupicelib\examples\testfiles\top_circuit.qsch
X1 N01 N02 sub_circuit param1=9 param2=0
V1 N01 0 PULSE 0 10 1m 1n 1n 1m 2m 10 AC 1 0
R1 N02 0 100K

.subckt sub_circuit IN OUT
M1 OUT IN 0 0 NMOS NMOS
R1 N01 OUT 100
V1 N01 0 {param1}
.param param1=11
.lib NMOS.txt
.ends sub_circuit

.tran 5m
.end
